US06124314
5-(3-Methanesulfonylamino-propyl)-thiophene-2-carboxylic acid methyl ester
A solution of 5-(3-methanesulfonylamino-prop-1-ynyl)-thiophene-2-carboxylic acid methyl ester (3.0 g, 10.9 mmol) in EtOAc (100 mL) and MeOH (50 mL) was hydrogenated with 10% palladium on carbon (680 mg) at 50 psi for 7 h. The solution was filtered through a pad of Celite® with the aid of MeOH and was concentrated in vacuo to provide the title compound as an off-white solid (2.95 g). 1H NMR (300 MHz, CDCl3) δ 7.62 (d, 1H), 7.23 (d, 1H), 4.29 (m, 1H), 3.85 (s, 3H), 3.18 (q, 2H), 2.93 (m, 5H), 1.96 (m, 2H).

reactant | 5-(3-methanesulfonylamino-prop-1-ynyl)-thiophene-2-carboxylic acid methyl ester | 10.9 mmol, 3.0 g | COC(=O)C=1SC(=CC1)C#CCNS(=O)(=O)C | C10H11NO4S2
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | MeOH | 50 mL | CO | CH4O
catalyst | palladium on carbon | 680 mg | [Pd] | Pd
product | 5-(3-Methanesulfonylamino-propyl)-thiophene-2-carboxylic acid methyl ester | 2.95 g | COC(=O)C=1SC(=CC1)CCCNS(=O)(=O)C | C10H15NO4S2
